US09315462B2
Compound 15: 5-(6-hydroxyquinolin-2-yl)thiophene-2-carboxylic acid
Followed Scheme 3: Starting Materials: 2-chloroquinolin-6-ol and 5-boronothiophene-2-carboxylic acid. 1H NMR (CD3OD, 400 MHz): δ 8.25 (d, J=8.8 Hz, 1H), 7.97 (dd, J=9.2, 3.2 Hz, 2H), 7.88-7.82 (m, 2H), 7.41 (dd, J=9.2, 2.8 Hz, 1H), 7.19 (d, J=2.4 Hz, 1H). MS (ESI): m/z 271.6 [M+H]+.

reactant | 2-chloroquinolin-6-ol | ClC1=NC2=CC=C(C=C2C=C1)O | C9H6ClNO
reactant | 5-boronothiophene-2-carboxylic acid | B(O)(O)C1=CC=C(S1)C(=O)O | C5H5BO4S
product | 5-(6-hydroxyquinolin-2-yl)thiophene-2-carboxylic acid | OC=1C=C2C=CC(=NC2=CC1)C1=CC=C(S1)C(=O)O | C14H9NO3S
